US09359352B2
Synthesis of 7-iodo-1,5-naphthyridine 1-oxide (D-15)
To a solution of 3-iodo-1,5-naphthyridine (D-14) (2.750 g, 10.7 mmol, 1.0 eq) in CH2Cl2 (30 mL), 3-chloroperoxybenzoic acid (2.780 g, 16.1 mmol, 1.5 eq) was added. After the resulting mixture was stirred at RT for 2 h, saturated sodium carbonate solution (50 mL) was added, and extracted with CH2Cl2 (10×30 mL). The combined organic layers were dried over Na2SO4 and filtered. The filtrate was concentrated in vacuo. The resultant residue was purified by silica gel column chromatography (50% EA-PE) to afford the desired product 7-iodo-1,5-naphthyridine 1-oxide (D-15) (1.574 g, 54% yield) as a solid. 1H NMR (400 MHz, CDCl3-d6) δ: 9.45 (dd, J=2.0 Hz, J=0.8 Hz, 1H), 9.18 (d, J=2.5 Hz, 1H), 8.54 (d, J=6.0 Hz, 1H), 7.98 (d, J=8.8 Hz, 1H), 7.59-7.55 (m, 1H); ESI-MS m/z: 272.95 [M+H]+.

reactant | 3-iodo-1,5-naphthyridine | 10.7 mmol, 2.750 g, 1.0 eq | IC=1C=NC2=CC=CN=C2C1 | C8H5IN2
reactant | 3-chloroperoxybenzoic acid | 16.1 mmol, 2.780 g, 1.5 eq | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | sodium carbonate | 50 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 7-iodo-1,5-naphthyridine 1-oxide | 1.574 g, 54% yield | IC1=CN=C2C=CC=[N+](C2=C1)[O-] | C8H5IN2O
